US07897793B2
In a 250 mL flask, 1-(4-iodobutyl)-4-methyl-2,6,7-trioxabicyclo[2.2.2]octane prepared according to process described in U.S. Pat. No. 5,538,995 (15.8 g, 50.6 mM), triphenylphosphine (14.6 g, 55.66 mM), sulfolane (20 mL) and C5H5N (0.10 mL) were placed under argon. The content of the flask was stirred and heated under argon at 80° C. After 70 minutes, the mixture was cooled to 40° C. and CHCl3 containing 0.3% of pyridine (70 mL) was added. This solution was added dropwise over 10 minutes to the mixture of Et2O (1.5 L) and EtOAc (0.6 L) and vigorously stirred under argon. The reaction mixture was vigorously stirred (600 r.p.m.) for 15 minutes at room temperature, then it was stirred more slowly (150 r.p.m.) for 15 minutes, and the solution was decanted. The thus obtained precipitate was dissolved in CHCl3 containing 0.2% of C5H5N (75 mL). This solution was added dropwise to vigorously stirred mixture of Et2O (1.2 L) and EtOAc (0.5 L). It was stirred under argon at room temperature. After 20 minutes, stirring was stopped. After 10 minutes, the solution was decanted, the precipitate was washed with Et2O (100 mL) and Et2O layer was decanted again. The obtained precipitate was dried under vacuum (1 mm Hg, 25° C., 1.5 h). The crude product (28.95 g, 100%) was obtained. This sample was dissolved in MeOH containing 0.04% of C5H5N (35 mL), EtOAc containing 0.04% of C5H5N (65 mL) was added and it was allowed for crystallization at +4° C. After 1.5 h, the precipitate was filtered and dried (1 mm Hg, 25° C., 1 h). [4-(4-methyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)butyl]triphenylphosphonium iodide was obtained (14.01 g, 48.3%) as colourless, thick prisms, t.t.=130-134° C.; 1H-NMR (CDCl3; 200 MHz) 6; 0.78 (3H, s), 1.58-1.80 (6H, m), 3.45 (2H, m), 3.79 (6H, s), 7.70-7.88 (15H, m); 13C-NMR (CDCl3; 50 MHz) δ 14.5, 21.7 (d: 4.0 Hz), 22.7 (d: 50.8 Hz), 24.0 (d: 16.8 Hz), 30.2, 34.7, 72.3 (3×C), 108.5, 117.8 (3×C, d: 86 Hz), 130.5 (6×C, d: 12.4 Hz), 133.5 (6×C, d: 10.0 Hz), 135.1 (3×C, d: 2.8 Hz).

reactant | 1-(4-iodobutyl)-4-methyl-2,6,7-trioxabicyclo[2.2.2]octane | ICCCCC12OCC(CO1)(CO2)C | C10H17IO3
reactant | triphenylphosphine | 55.66 mM, 14.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sulfolane | 20 mL | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc | 0.6 L | CCOC(=O)C | C4H8O2
solvent | Et2O | 1.5 L | CCOCC | C4H10O
solvent | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
product | [4-(4-methyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)butyl]triphenylphosphonium iodide | [I-].CC12COC(OC1)(OC2)CCCC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C28H32O3P.HI/c1-27-21-29-28(30-22-27,31-23-27)19-11-12-20-32(24-13-5-2-6-14-24,25-15-7-3-8-16-25)26-17-9-4-10-18-26;/h2-10,13-18H,11-12,19-23H2,1H3;1H/q+1;/p-1
